US06090825
D. 1-(4-[5-(4-fluoro-phenyl)-4-(2,2,2- trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidin-1-yl)-ethanone
To a stirred mixture of 18.85 g (59.2 mmol) 1-(4-[5-(4-fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl)-ethanone, prepared as in Part C, and 11.5 g (66.0 mmol) methanesulfonic anhydride in 300 ml anhydrous tetrahydrofuran, 13.06 ml (75 mmol) N,N-diisopropylethylamine is added at 10° C. over 20 minutes. The mixture is allowed to warm to 20° C. and stirred for 90 minutes at 20° C. When the mesylate formation is complete as monitored by 1H-NMR, 15 g (100 mmol) of solid sodium lodide is added. The conversion of the mesylate to the iodide is complete (as monitored by 1H-NMR) in about 2 hr. A solution of sodium 2,2,2-trifluoroethoxide, made from 21.8 ml (300 ml) 2,2,2-trifluoroethanol, 12 g (300 mmol) sodium hydride (60% disp. in mineral oil) in 280 ml anhydrous tetrahydrofuran, is added to reaction mixture. The resulting slurry is stirred at room temperature for 60 minutes, diluted with 500 mL ether, and extracted with water (3×200 mL). The water phase is extracted with methylene chloride (2×200 mL), and the organic phases are combined, dried with anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue is then transferred to a silica gel packed column and purified using the following solvent mixtures: hexane-ethyl acetate (1:1), ethyl acetate (neat) then ethyl acetate-ethanol (9:1) to yield the title compound. 1H-NMR (CDCl3) d 1.88 (m, 2H), 2.10-2.20 (m, 2H), 2.16 (d, 3H), 2.91 (t, 1H), 3.12 (m, 1H), 3.28 (t, 1H), 3.93 (d, 1H), 4.00 (q, 2H), 4.57 (d, 1H), 4.71 (s, 2H), 7.19 (t, 2H), 7.65 (dd, 2H).

reactant | 1-(4-[5-(4-fluoro-phenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl)-ethanone | 59.2 mmol, 18.85 g | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)C(C)=O)CO | C17H19FN2O3
reactant | methanesulfonic anhydride | 66.0 mmol, 11.5 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | N,N-diisopropylethylamine | 75 mmol, 13.06 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | sodium | [Na] | Na
reactant | iodide | [I-]
reactant | sodium 2,2,2-trifluoroethoxide | FC(C[O-])(F)F.[Na+]
reactant | 2,2,2-trifluoroethanol | 21.8 ml | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 300 mmol, 12 g | [H-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
solvent | ether | 500 mL | CCOCC | C4H10O
product | 1-(4-[5-(4-fluoro-phenyl)-4-(2,2,2- trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidin-1-yl)-ethanone | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)C(C)=O)COCC(F)(F)F | C19H20F4N2O3
